US05891877
Preparation of (3Z)-1-acetyl-3-(4-acetamidobenzylidene)-2,5-piperazinedione
1,4-Diacetyl-2,5-piperazinedione (10.0 g, 50 mmol), prepared by the published procedure mentioned in Example 3, was stirred in DMF (40 ml) with 4-acetamidobenzaldehyde (8.24 g, 50 mmol) and triethylamine (7 ml, 50 mmol) and heated to 120° C. After 21/2 h the mixture was cooled to room temperature, diluted with EtOAc (100 ml) and stirred overnight. The solid formed was collected, washed with EtOAc and dried to give 8.46 g (56%) of a yellow solid.

reactant | 1,4-Diacetyl-2,5-piperazinedione | 50 mmol, 10.0 g | C(C)(=O)N1C(CN(C(C1)=O)C(C)=O)=O | C8H10N2O4
reactant | 4-acetamidobenzaldehyde | 50 mmol, 8.24 g | C(C)(=O)NC1=CC=C(C=O)C=C1 | C9H9NO2
reactant | triethylamine | 50 mmol, 7 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
product | (3Z)-1-acetyl-3-(4-acetamidobenzylidene)-2,5-piperazinedione | 8.46 g, 56% | C(C)(=O)N1C(/C(/NC(C1)=O)=C/C1=CC=C(C=C1)NC(C)=O)=O | C15H15N3O4
